US08975254B2
e) 3-Acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)isoxazol-5-yl)ethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 4-(5-(2-aminoethyl)isoxazol-3-yl)-2-chlorobenzonitrile hydrochloride (0.080 g, 0.282 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (0.043 g, 0.282 mmol), DIPEA (0.196 ml, 1.126 mmol 1), HOBt hydrate (0.065 g, 0.422 mmol) and EDCI (0.081 g, 0.422 mmol) using the method of Example 274 affording 0.013 g of the title compound after preparative HPLC purification. 1H-NMR (400 MHz; d6-DMSO): δ 2.53 (s, 3H), 3.20 (t, 2H), 3.83 (m, 2H), 6.54 (s, 1H), 7.33 (bs, 1H), 7.63 (bs, 1H), 7.79 (m, 1H), 7.97 (bs, 1H).

reactant | 4-(5-(2-aminoethyl)isoxazol-3-yl)-2-chlorobenzonitrile hydrochloride | 0.282 mmol, 0.080 g | Cl.NCCC1=CC(=NO1)C1=CC(=C(C#N)C=C1)Cl
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.282 mmol, 0.043 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | DIPEA | 1.126 mmol, 0.196 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt hydrate | 0.422 mmol, 0.065 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 0.422 mmol, 0.081 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-Acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)isoxazol-5-yl)ethyl)-1H-pyrazole-5-carboxamide | 0.013 g | C(C)(=O)C1=NNC(=C1)C(=O)NCCC1=CC(=NO1)C1=CC(=C(C=C1)C#N)Cl | C18H14ClN5O3
